US07786132B2
3-((4-Fluorophenyl)(thiazol-2-yl)amino)propan-1-ol
A mixture of N-(4-fluorophenyl)thiazol-2-amine (6.00 g, 30.0 mmol), 3-chloropropanol (3.87 mL, 46.4 mmol), tetra-n-butylammonium hydrogensulfate (1.05 g, 3.09 mmol) in toluene (100 mL) and NaOH (40% w/v in water)(20 mL). was refluxed for 3 h. On cooling, the reaction mixture was diluted with EtOAc(100 mL), washed with water (4×100 mL), brine (100 mL), dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography with 50-80% EtOAc in hexane to afford the title compound as a brown oil, 3.287 g. MS (M+H)+ 253.

reactant | N-(4-fluorophenyl)thiazol-2-amine | 30.0 mmol, 6.00 g | FC1=CC=C(C=C1)NC=1SC=CN1 | C9H7FN2S
reactant | 3-chloropropanol | 46.4 mmol, 3.87 mL | ClCCCO | C3H7ClO
catalyst | tetra-n-butylammonium hydrogensulfate | 3.09 mmol, 1.05 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 20 mL | [OH-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-((4-Fluorophenyl)(thiazol-2-yl)amino)propan-1-ol | FC1=CC=C(C=C1)N(CCCO)C=1SC=CN1 | C12H13FN2OS
